US05374637
A mixture of 5.4 parts of cis-4-amino-5-chloro-2,3-dihydro-N-[3-methoxy-1-[3-(2-methyl-1,3-dioxolan-2-yl)propyl]-4-piperidinyl]-2,2-dimethyl-7-benzofurancarboxamide and 85 ml of an aqueous sulfuric acid solution 1% was stirred for 2 hours at reflux temperature. After cooling, the reaction mixture was basified with ammonia and extracted with dichloromethane (2x). The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CH2Cl2 /CH3OH 95:5). The eluent of the desired fraction was evaporated and the residue was suspended in 2,2'-oxybispropane. The product was filtered off and dried, yielding 2.4 parts (51.6%) of cis-4-amino-5-chloro-2,3-dihydro-N-[3-methoxy-1-(4-oxopentyl)-4-piperidinyl]-2,2-dimethyl-7-benzofurancarboxamide hemihydrate; mp. 137.7° C. (comp. 112).

reactant | cis-4-amino-5-chloro-2,3-dihydro-N-[3-methoxy-1-[3-(2-methyl-1,3-dioxolan-2-yl)propyl]-4-piperidinyl]-2,2-dimethyl-7-benzofurancarboxamide | NC1=C(C=C(C2=C1CC(O2)(C)C)C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC2(OCCO2)C)OC)Cl | C24H36ClN3O5
reactant | sulfuric acid | 85 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
product | cis-4-amino-5-chloro-2,3-dihydro-N-[3-methoxy-1-(4-oxopentyl)-4-piperidinyl]-2,2-dimethyl-7-benzofurancarboxamide hemihydrate | 51.6% | O.NC1=C(C=C(C2=C1CC(O2)(C)C)C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC(C)=O)OC)Cl.NC2=C(C=C(C1=C2CC(O1)(C)C)C(=O)N[C@@H]1[C@@H](CN(CC1)CCCC(C)=O)OC)Cl | InChI=1S/2C22H32ClN3O4.H2O/c2*1-13(27)6-5-8-26-9-7-17(18(12-26)29-4)25-21(28)14-10-16(23)19(24)15-11-22(2,3)30-20(14)15;/h2*10,17-18H,5-9,11-12,24H2,1-4H3,(H,25,28);1H2/t2*17-,18+;/m00./s1
